US07989461B2
4-Chloro-8-iodo-2,7-dimethylquinazoline (0.30 g, 0.94 mmol) and 3-(trifluoromethoxy)benzenamine (0.20 g, 1.1 mmol) were placed in a microwave vial containing 3 mL of IPA. The vial was capped and heated in a microwave reactor at 170° C. for 10 min. The mixture was concentrated in vacuo and the residue was taken up in ethyl acetate and washed (2×) with an aqueous saturated solution of sodium bicarbonate, then with water and then brine. The organic layer was dried with sodium sulfate, concentrated and purified by column chromatography on silica gel using a gradient of 20 to 60% EtOAc in hexanes to give a 8-iodo-2,7-dimethyl-N-(3-(trifluoromethoxy)phenyl)quinazolin-4-amine (0.32 g, 74%) as an off-white solid. MS (M+H)+ 460.

reactant | 4-Chloro-8-iodo-2,7-dimethylquinazoline | 0.94 mmol, 0.30 g | ClC1=NC(=NC2=C(C(=CC=C12)C)I)C | C10H8ClIN2
reactant | 3-(trifluoromethoxy)benzenamine | 1.1 mmol, 0.20 g | FC(OC=1C=C(C=CC1)N)(F)F | C7H6F3NO
solvent | IPA | 3 mL | CC(C)O | C3H8O
product | 8-iodo-2,7-dimethyl-N-(3-(trifluoromethoxy)phenyl)quinazolin-4-amine | 0.32 g, 74% | IC=1C(=CC=C2C(=NC(=NC12)C)NC1=CC(=CC=C1)OC(F)(F)F)C | C17H13F3IN3O
